*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :4532M(1812)/U2J(-55to125[deg])/1.50e-02[uF]/630[V]
* Murata P/N :GRM43D7U2J153JW31
* Property : C = 1.50e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM43D7U2J153JW31 Port1 Port2
C01 Port1 N01 1.45e-08
R01 Port1 N01 6.67e+09
L02 N01 N02 6.47e-12
R03 N02 N03 5.03e-03
L04 N03 N04 1.38e-10
R04 N03 N04 3.38e-01
L05 N04 N05 2.55e-11
R05 N04 N05 2.41e-03
C06 N05 N06 2.55e-08
L06 N05 N06 1.11e-10
R06 N05 N06 6.34e-01
C07 N06 N07 1.41e-08
L07 N06 N07 7.28e-11
R07 N06 N07 5.28e-01
C08 N07 N08 4.33e-08
L08 N07 N08 1.12e-11
R08 N07 N08 1.24e-01
C09 N08 N09 1.75e-08
L09 N08 N09 1.61e-11
R09 N08 N09 1.32e-01
C10 N09 Port2 2.03e-12
L10 N09 Port2 6.01e-10
R10 N09 Port2 3.61e+02
.ENDS GRM43D7U2J153JW31
